US03954834
Preparation of ethyl 2-n-hexyl-3-oxo-cyclopentanecarboxylate
In a 1 L flask, to which is attached a water separator under a reflux condenser, is placed a solution of 20 g of 2-n-hexyl-3-oxo-cyclopentanecarboxylic acid, 9,5 g of absolute ethanol and 1 g of p-toluenesulphonic acid in 500 ml of benzene. The reaction mixture is refluxed until no more water separates. The reaction mixture is then cooled and washed successively with water and sodium carbonate solution and dried over anhydrous sodium sulphate. The solvent is removed by distillation at atmospheric pressure and the residue is distilled through a short Vigreux column. Ethyl 2-n-hexyl-3-oxo-cyclopentanecarboxylate is collected at 102°C/0.25 mm, yield 19,5 g (86%), nD20 1.4535.

reactant | water | O | H2O
reactant | 2-n-hexyl-3-oxo-cyclopentanecarboxylic acid | 20 g | C(CCCCC)C1C(CCC1=O)C(=O)O | C12H20O3
reactant | ethanol | 9,5 g | C(C)O | C2H6O
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-n-hexyl-3-oxo-cyclopentanecarboxylate | C(CCCCC)C1C(CCC1=O)C(=O)OCC | C14H24O3
